* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.006933994487581921
Fd1_1 0 s1 V1 -0.346699724379096
Gr1_1_1 0 s1 x1_a1 0 56389291117.8709
Gr2_re_1_1 0 s1 x2_re_a1 0 1803913544.2071636
Gr2_im_1_1 0 s1 x2_im_a1 0 2780114010.8889427
Gr3_re_1_1 0 s1 x3_re_a1 0 161555504.4449861
Gr3_im_1_1 0 s1 x3_im_a1 0 131580210.04974355
Gr4_re_1_1 0 s1 x4_re_a1 0 79669097.60547827
Gr4_im_1_1 0 s1 x4_im_a1 0 -39751743.20406115
Gr5_re_1_1 0 s1 x5_re_a1 0 -109495734.07531433
Gr5_im_1_1 0 s1 x5_im_a1 0 59125820.51904951
Gr6_re_1_1 0 s1 x6_re_a1 0 -997644.5435604971
Gr6_im_1_1 0 s1 x6_im_a1 0 -1480018.9618347897
Gr7_re_1_1 0 s1 x7_re_a1 0 -1562960.4100637962
Gr7_im_1_1 0 s1 x7_im_a1 0 -1251765.2672908003
Gr8_re_1_1 0 s1 x8_re_a1 0 -1415327.8369919076
Gr8_im_1_1 0 s1 x8_im_a1 0 -515274.2244190026
Gd1_2 0 s1 p2 0 3.9344719960234654e-05
Fd1_2 0 s1 V2 0.0019672359980117326
Gr1_1_2 0 s1 x1_a2 0 -329231935.08690804
Gr2_re_1_2 0 s1 x2_re_a2 0 1715748.9594742565
Gr2_im_1_2 0 s1 x2_im_a2 0 -2183791.7499928535
Gr3_re_1_2 0 s1 x3_re_a2 0 12774047.414741095
Gr3_im_1_2 0 s1 x3_im_a2 0 1011775.6717789583
Gr4_re_1_2 0 s1 x4_re_a2 0 5625514.691407698
Gr4_im_1_2 0 s1 x4_im_a2 0 -21076088.774383172
Gr5_re_1_2 0 s1 x5_re_a2 0 -16684558.60915546
Gr5_im_1_2 0 s1 x5_im_a2 0 -2382819.1739817034
Gr6_re_1_2 0 s1 x6_re_a2 0 261909.4421477994
Gr6_im_1_2 0 s1 x6_im_a2 0 -197214.08449349235
Gr7_re_1_2 0 s1 x7_re_a2 0 897299.2065794176
Gr7_im_1_2 0 s1 x7_im_a2 0 329970.8312445477
Gr8_re_1_2 0 s1 x8_re_a2 0 920311.1682731241
Gr8_im_1_2 0 s1 x8_im_a2 0 152505.0527783052
Gd1_3 0 s1 p3 0 -6.249860964322845e-05
Fd1_3 0 s1 V3 -0.003124930482161423
Gr1_1_3 0 s1 x1_a3 0 585418470.5775313
Gr2_re_1_3 0 s1 x2_re_a3 0 -1270258.737782628
Gr2_im_1_3 0 s1 x2_im_a3 0 10597477.850426806
Gr3_re_1_3 0 s1 x3_re_a3 0 -822333.6443898432
Gr3_im_1_3 0 s1 x3_im_a3 0 763359.3875047336
Gr4_re_1_3 0 s1 x4_re_a3 0 -642440.8562245503
Gr4_im_1_3 0 s1 x4_im_a3 0 146793.44508730335
Gr5_re_1_3 0 s1 x5_re_a3 0 -1009148.7853414862
Gr5_im_1_3 0 s1 x5_im_a3 0 -537243.678318305
Gr6_re_1_3 0 s1 x6_re_a3 0 7852787.858379284
Gr6_im_1_3 0 s1 x6_im_a3 0 -11190040.554111196
Gr7_re_1_3 0 s1 x7_re_a3 0 -7329006.160430669
Gr7_im_1_3 0 s1 x7_im_a3 0 -18524695.879059583
Gr8_re_1_3 0 s1 x8_re_a3 0 -19759653.670178276
Gr8_im_1_3 0 s1 x8_im_a3 0 -7136511.014008978
Gd1_4 0 s1 p4 0 -2.2138435610409234e-07
Fd1_4 0 s1 V4 -1.1069217805204618e-05
Gr1_1_4 0 s1 x1_a4 0 1911357.5820103614
Gr2_re_1_4 0 s1 x2_re_a4 0 2536.1587448190226
Gr2_im_1_4 0 s1 x2_im_a4 0 34282.58482683869
Gr3_re_1_4 0 s1 x3_re_a4 0 -964.4233525837467
Gr3_im_1_4 0 s1 x3_im_a4 0 3445.239444473545
Gr4_re_1_4 0 s1 x4_re_a4 0 -1137.0008567252046
Gr4_im_1_4 0 s1 x4_im_a4 0 948.2038163771938
Gr5_re_1_4 0 s1 x5_re_a4 0 -2271.8391752529396
Gr5_im_1_4 0 s1 x5_im_a4 0 -1641.485114387631
Gr6_re_1_4 0 s1 x6_re_a4 0 15166.292347248675
Gr6_im_1_4 0 s1 x6_im_a4 0 -65826.50059211052
Gr7_re_1_4 0 s1 x7_re_a4 0 -16054.484779826273
Gr7_im_1_4 0 s1 x7_im_a4 0 -23724.856939798072
Gr8_re_1_4 0 s1 x8_re_a4 0 -27616.331620106528
Gr8_im_1_4 0 s1 x8_im_a4 0 -1540.7879139945637
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3808038946536517e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.030415672712071e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 265376541317.30878
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -265376541317.30878
Rp2_im_im_a1 0 x2_im_a1 5.030415672712071e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 4.2029137059206497e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 181230064852.07162
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -181230064852.07162
Rp3_im_im_a1 0 x3_im_a1 4.2029137059206497e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 8.740715926212408e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 138960205840.4424
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -138960205840.4424
Rp4_im_im_a1 0 x4_im_a1 8.740715926212408e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 8.056222240093577e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 84077751270.35327
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -84077751270.35327
Rp5_im_im_a1 0 x5_im_a1 8.056222240093577e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 2.315606031223313e-08
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 1389123142.7996109
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -1389123142.7996109
Rp6_im_im_a1 0 x6_im_a1 2.315606031223313e-08
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.8811882441408104e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 585015595.3452263
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -585015595.3452263
Rp7_im_im_a1 0 x7_im_a1 1.8811882441408104e-08
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.8417822478933405e-08
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 193328776.1435361
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -193328776.1435361
Rp8_im_im_a1 0 x8_im_a1 1.8417822478933405e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 3.9344947342004445e-05
Fd2_1 0 s2 V1 0.0019672473671002227
Gr1_2_1 0 s2 x1_a1 0 -329080906.27870226
Gr2_re_2_1 0 s2 x2_re_a1 0 1700745.5793468866
Gr2_im_2_1 0 s2 x2_im_a1 0 -2162942.104898254
Gr3_re_2_1 0 s2 x3_re_a1 0 12772418.183180893
Gr3_im_2_1 0 s2 x3_im_a1 0 986902.1032275637
Gr4_re_2_1 0 s2 x4_re_a1 0 5567714.060656199
Gr4_im_2_1 0 s2 x4_im_a1 0 -21073779.464241583
Gr5_re_2_1 0 s2 x5_re_a1 0 -16675991.753692714
Gr5_im_2_1 0 s2 x5_im_a1 0 -2351221.6484868377
Gr6_re_2_1 0 s2 x6_re_a1 0 261520.56253762136
Gr6_im_2_1 0 s2 x6_im_a1 0 -197273.20376425597
Gr7_re_2_1 0 s2 x7_re_a1 0 896926.4619783447
Gr7_im_2_1 0 s2 x7_im_a1 0 329779.16059611924
Gr8_re_2_1 0 s2 x8_re_a1 0 919867.8772587265
Gr8_im_2_1 0 s2 x8_im_a1 0 152383.82955061423
Gd2_2 0 s2 p2 0 -0.006954041976036337
Fd2_2 0 s2 V2 -0.34770209880181685
Gr1_2_2 0 s2 x1_a2 0 57583335203.20981
Gr2_re_2_2 0 s2 x2_re_a2 0 1624160591.5456936
Gr2_im_2_2 0 s2 x2_im_a2 0 2886567567.5350227
Gr3_re_2_2 0 s2 x3_re_a2 0 166077107.5534935
Gr3_im_2_2 0 s2 x3_im_a2 0 145328488.13452944
Gr4_re_2_2 0 s2 x4_re_a2 0 97407601.32232395
Gr4_im_2_2 0 s2 x4_im_a2 0 -40548871.92151007
Gr5_re_2_2 0 s2 x5_re_a2 0 -109238486.79412161
Gr5_im_2_2 0 s2 x5_im_a2 0 44350573.97964696
Gr6_re_2_2 0 s2 x6_re_a2 0 -992747.4921049925
Gr6_im_2_2 0 s2 x6_im_a2 0 -1400656.929018216
Gr7_re_2_2 0 s2 x7_re_a2 0 -1456440.6908590845
Gr7_im_2_2 0 s2 x7_im_a2 0 -1230078.302100862
Gr8_re_2_2 0 s2 x8_re_a2 0 -1459821.9415625734
Gr8_im_2_2 0 s2 x8_im_a2 0 -576245.9240714848
Gd2_3 0 s2 p3 0 -1.8092159398245183e-07
Fd2_3 0 s2 V3 -9.046079699122593e-06
Gr1_2_3 0 s2 x1_a3 0 1602144.6718032681
Gr2_re_2_3 0 s2 x2_re_a3 0 4642.250066653464
Gr2_im_2_3 0 s2 x2_im_a3 0 33955.53463764706
Gr3_re_2_3 0 s2 x3_re_a3 0 -1046.7412531148132
Gr3_im_2_3 0 s2 x3_im_a3 0 1565.71559956773
Gr4_re_2_3 0 s2 x4_re_a3 0 -1974.5330817204679
Gr4_im_2_3 0 s2 x4_im_a3 0 565.4820662821361
Gr5_re_2_3 0 s2 x5_re_a3 0 -2809.68469140362
Gr5_im_2_3 0 s2 x5_im_a3 0 -1538.1253315256513
Gr6_re_2_3 0 s2 x6_re_a3 0 18135.70663954913
Gr6_im_2_3 0 s2 x6_im_a3 0 -66852.03022017228
Gr7_re_2_3 0 s2 x7_re_a3 0 -17722.34666158505
Gr7_im_2_3 0 s2 x7_im_a3 0 -25111.46265407352
Gr8_re_2_3 0 s2 x8_re_a3 0 -27805.728498932003
Gr8_im_2_3 0 s2 x8_im_a3 0 -5026.454979519042
Gd2_4 0 s2 p4 0 -6.262746591016179e-05
Fd2_4 0 s2 V4 -0.0031313732955080896
Gr1_2_4 0 s2 x1_a4 0 586628563.7047573
Gr2_re_2_4 0 s2 x2_re_a4 0 -1278361.7233104738
Gr2_im_2_4 0 s2 x2_im_a4 0 10630777.058396196
Gr3_re_2_4 0 s2 x3_re_a4 0 -822026.541890544
Gr3_im_2_4 0 s2 x3_im_a4 0 765896.8153732229
Gr4_re_2_4 0 s2 x4_re_a4 0 -643595.0200348977
Gr4_im_2_4 0 s2 x4_im_a4 0 147080.10754031158
Gr5_re_2_4 0 s2 x5_re_a4 0 -1011992.961800328
Gr5_im_2_4 0 s2 x5_im_a4 0 -539387.6694506236
Gr6_re_2_4 0 s2 x6_re_a4 0 7783190.478396825
Gr6_im_2_4 0 s2 x6_im_a4 0 -11185957.330393478
Gr7_re_2_4 0 s2 x7_re_a4 0 -7338919.082528543
Gr7_im_2_4 0 s2 x7_im_a4 0 -18484716.283892788
Gr8_re_2_4 0 s2 x8_re_a4 0 -19750736.43736221
Gr8_im_2_4 0 s2 x8_im_a4 0 -7129192.7462357925
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3808038946536517e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.030415672712071e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 265376541317.30878
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -265376541317.30878
Rp2_im_im_a2 0 x2_im_a2 5.030415672712071e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 4.2029137059206497e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 181230064852.07162
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -181230064852.07162
Rp3_im_im_a2 0 x3_im_a2 4.2029137059206497e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 8.740715926212408e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 138960205840.4424
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -138960205840.4424
Rp4_im_im_a2 0 x4_im_a2 8.740715926212408e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 8.056222240093577e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 84077751270.35327
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -84077751270.35327
Rp5_im_im_a2 0 x5_im_a2 8.056222240093577e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 2.315606031223313e-08
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 1389123142.7996109
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -1389123142.7996109
Rp6_im_im_a2 0 x6_im_a2 2.315606031223313e-08
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.8811882441408104e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 585015595.3452263
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -585015595.3452263
Rp7_im_im_a2 0 x7_im_a2 1.8811882441408104e-08
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.8417822478933405e-08
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 193328776.1435361
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -193328776.1435361
Rp8_im_im_a2 0 x8_im_a2 1.8417822478933405e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -6.25125813751052e-05
Fd3_1 0 s3 V1 -0.0031256290687552606
Gr1_3_1 0 s3 x1_a1 0 585244197.6094187
Gr2_re_3_1 0 s3 x2_re_a1 0 -1257759.7186647188
Gr2_im_3_1 0 s3 x2_im_a1 0 10597736.417378005
Gr3_re_3_1 0 s3 x3_re_a1 0 -820607.9442586689
Gr3_im_3_1 0 s3 x3_im_a1 0 763542.9601075889
Gr4_re_3_1 0 s3 x4_re_a1 0 -641531.7074372178
Gr4_im_3_1 0 s3 x4_im_a1 0 147367.09443278768
Gr5_re_3_1 0 s3 x5_re_a1 0 -1008840.4612586183
Gr5_im_3_1 0 s3 x5_im_a1 0 -536855.4510965594
Gr6_re_3_1 0 s3 x6_re_a1 0 7844193.340580488
Gr6_im_3_1 0 s3 x6_im_a1 0 -11182668.778758809
Gr7_re_3_1 0 s3 x7_re_a1 0 -7327314.919911799
Gr7_im_3_1 0 s3 x7_im_a1 0 -18509775.450397942
Gr8_re_3_1 0 s3 x8_re_a1 0 -19757709.82506043
Gr8_im_3_1 0 s3 x8_im_a1 0 -7129622.114789096
Gd3_2 0 s3 p2 0 -2.1730683725204743e-07
Fd3_2 0 s3 V2 -1.0865341862602371e-05
Gr1_3_2 0 s3 x1_a2 0 1845453.4342537895
Gr2_re_3_2 0 s3 x2_re_a2 0 11077.285488115685
Gr2_im_3_2 0 s3 x2_im_a2 0 28089.141389282413
Gr3_re_3_2 0 s3 x3_re_a2 0 -1063.1232173009805
Gr3_im_3_2 0 s3 x3_im_a2 0 2252.216733701358
Gr4_re_3_2 0 s3 x4_re_a2 0 -1170.5275557646326
Gr4_im_3_2 0 s3 x4_im_a2 0 1572.404757639366
Gr5_re_3_2 0 s3 x5_re_a2 0 -2510.366596709653
Gr5_im_3_2 0 s3 x5_im_a2 0 -1668.5128998411944
Gr6_re_3_2 0 s3 x6_re_a2 0 18198.325424534218
Gr6_im_3_2 0 s3 x6_im_a2 0 -66795.13815522852
Gr7_re_3_2 0 s3 x7_re_a2 0 -18010.587386736213
Gr7_im_3_2 0 s3 x7_im_a2 0 -25346.499586608443
Gr8_re_3_2 0 s3 x8_re_a2 0 -27723.238568628454
Gr8_im_3_2 0 s3 x8_im_a2 0 -5082.859256235263
Gd3_3 0 s3 p3 0 0.0018840507613685602
Fd3_3 0 s3 V3 0.094202538068428
Gr1_3_3 0 s3 x1_a3 0 -12581949116.112751
Gr2_re_3_3 0 s3 x2_re_a3 0 -317071573.7548721
Gr2_im_3_3 0 s3 x2_im_a3 0 -71784310.22364134
Gr3_re_3_3 0 s3 x3_re_a3 0 3162476.810643807
Gr3_im_3_3 0 s3 x3_im_a3 0 18084686.832115214
Gr4_re_3_3 0 s3 x4_re_a3 0 -5681075.139990051
Gr4_im_3_3 0 s3 x4_im_a3 0 -8679874.433655724
Gr5_re_3_3 0 s3 x5_re_a3 0 -4173914.5461511565
Gr5_im_3_3 0 s3 x5_im_a3 0 -23659086.656836174
Gr6_re_3_3 0 s3 x6_re_a3 0 325318.1341721434
Gr6_im_3_3 0 s3 x6_im_a3 0 364014.1889647892
Gr7_re_3_3 0 s3 x7_re_a3 0 12999.750430584623
Gr7_im_3_3 0 s3 x7_im_a3 0 -317425.2791136763
Gr8_re_3_3 0 s3 x8_re_a3 0 620924.3433865841
Gr8_im_3_3 0 s3 x8_im_a3 0 -159107.9381449459
Gd3_4 0 s3 p4 0 -2.457433983075217e-06
Fd3_4 0 s3 V4 -0.00012287169915376086
Gr1_3_4 0 s3 x1_a4 0 20743978.062242124
Gr2_re_3_4 0 s3 x2_re_a4 0 50462.66966242499
Gr2_im_3_4 0 s3 x2_im_a4 0 250819.30810985347
Gr3_re_3_4 0 s3 x3_re_a4 0 -35525.7620587492
Gr3_im_3_4 0 s3 x3_im_a4 0 33247.717512751246
Gr4_re_3_4 0 s3 x4_re_a4 0 -32738.694634397194
Gr4_im_3_4 0 s3 x4_im_a4 0 -21896.144055830187
Gr5_re_3_4 0 s3 x5_re_a4 0 -66184.08044419017
Gr5_im_3_4 0 s3 x5_im_a4 0 3153.1162320469825
Gr6_re_3_4 0 s3 x6_re_a4 0 318745.7130453834
Gr6_im_3_4 0 s3 x6_im_a4 0 -202299.4208999005
Gr7_re_3_4 0 s3 x7_re_a4 0 34458.345561133705
Gr7_im_3_4 0 s3 x7_im_a4 0 -793074.0404637975
Gr8_re_3_4 0 s3 x8_re_a4 0 -994172.6078781608
Gr8_im_3_4 0 s3 x8_im_a4 0 -634946.3662278967
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 2.3808038946536517e-12
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 5.030415672712071e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 265376541317.30878
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -265376541317.30878
Rp2_im_im_a3 0 x2_im_a3 5.030415672712071e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 4.2029137059206497e-10
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 181230064852.07162
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -181230064852.07162
Rp3_im_im_a3 0 x3_im_a3 4.2029137059206497e-10
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 8.740715926212408e-10
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 138960205840.4424
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -138960205840.4424
Rp4_im_im_a3 0 x4_im_a3 8.740715926212408e-10
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 8.056222240093577e-10
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 84077751270.35327
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -84077751270.35327
Rp5_im_im_a3 0 x5_im_a3 8.056222240093577e-10
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.1414213562373095
Fx6_re_a3 0 x6_re_a3 V3 7.0710678118654755
Rp6_re_re_a3 0 x6_re_a3 2.315606031223313e-08
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 1389123142.7996109
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -1389123142.7996109
Rp6_im_im_a3 0 x6_im_a3 2.315606031223313e-08
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.1414213562373095
Fx7_re_a3 0 x7_re_a3 V3 7.0710678118654755
Rp7_re_re_a3 0 x7_re_a3 1.8811882441408104e-08
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 585015595.3452263
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -585015595.3452263
Rp7_im_im_a3 0 x7_im_a3 1.8811882441408104e-08
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.1414213562373095
Fx8_re_a3 0 x8_re_a3 V3 7.0710678118654755
Rp8_re_re_a3 0 x8_re_a3 1.8417822478933405e-08
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 193328776.1435361
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -193328776.1435361
Rp8_im_im_a3 0 x8_im_a3 1.8417822478933405e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -1.949793096721402e-07
Fd4_1 0 s4 V1 -9.74896548360701e-06
Gr1_4_1 0 s4 x1_a1 0 1763891.302800122
Gr2_re_4_1 0 s4 x2_re_a1 0 11337.355640074018
Gr2_im_4_1 0 s4 x2_im_a1 0 38146.32401398471
Gr3_re_4_1 0 s4 x3_re_a1 0 -4514.843865332371
Gr3_im_4_1 0 s4 x3_im_a1 0 2721.298938221778
Gr4_re_4_1 0 s4 x4_re_a1 0 -1794.138576238501
Gr4_im_4_1 0 s4 x4_im_a1 0 766.5558555200088
Gr5_re_4_1 0 s4 x5_re_a1 0 -1966.297150834383
Gr5_im_4_1 0 s4 x5_im_a1 0 -1224.433244897503
Gr6_re_4_1 0 s4 x6_re_a1 0 15105.205306902117
Gr6_im_4_1 0 s4 x6_im_a1 0 -65751.52031961211
Gr7_re_4_1 0 s4 x7_re_a1 0 -16073.1202529259
Gr7_im_4_1 0 s4 x7_im_a1 0 -24195.154113519377
Gr8_re_4_1 0 s4 x8_re_a1 0 -27753.633236603924
Gr8_im_4_1 0 s4 x8_im_a1 0 -1712.3470636799277
Gd4_2 0 s4 p2 0 -6.261797924363555e-05
Fd4_2 0 s4 V2 -0.0031308989621817774
Gr1_4_2 0 s4 x1_a2 0 586320640.9418988
Gr2_re_4_2 0 s4 x2_re_a2 0 -1289213.5397011715
Gr2_im_4_2 0 s4 x2_im_a2 0 10607350.054177156
Gr3_re_4_2 0 s4 x3_re_a2 0 -821851.2163249479
Gr3_im_4_2 0 s4 x3_im_a2 0 764264.8646611198
Gr4_re_4_2 0 s4 x4_re_a2 0 -643359.0963301228
Gr4_im_4_2 0 s4 x4_im_a2 0 146844.62428747237
Gr5_re_4_2 0 s4 x5_re_a2 0 -1011385.3115018866
Gr5_im_4_2 0 s4 x5_im_a2 0 -538124.2316105333
Gr6_re_4_2 0 s4 x6_re_a2 0 7779037.106576426
Gr6_im_4_2 0 s4 x6_im_a2 0 -11181034.680412775
Gr7_re_4_2 0 s4 x7_re_a2 0 -7341012.073502529
Gr7_im_4_2 0 s4 x7_im_a2 0 -18474090.481014762
Gr8_re_4_2 0 s4 x8_re_a2 0 -19752123.5951883
Gr8_im_4_2 0 s4 x8_im_a2 0 -7111710.807619396
Gd4_3 0 s4 p3 0 -2.493214405003774e-06
Fd4_3 0 s4 V3 -0.00012466072025018872
Gr1_4_3 0 s4 x1_a3 0 21022605.86750894
Gr2_re_4_3 0 s4 x2_re_a3 0 66196.43915436957
Gr2_im_4_3 0 s4 x2_im_a3 0 259236.20096303354
Gr3_re_4_3 0 s4 x3_re_a3 0 -33995.231824781134
Gr3_im_4_3 0 s4 x3_im_a3 0 33703.34097358622
Gr4_re_4_3 0 s4 x4_re_a3 0 -32063.833414172874
Gr4_im_4_3 0 s4 x4_im_a3 0 -21785.805735281716
Gr5_re_4_3 0 s4 x5_re_a3 0 -65747.27896578504
Gr5_im_4_3 0 s4 x5_im_a3 0 4351.8065048881235
Gr6_re_4_3 0 s4 x6_re_a3 0 318827.1648861572
Gr6_im_4_3 0 s4 x6_im_a3 0 -202358.4295844511
Gr7_re_4_3 0 s4 x7_re_a3 0 34741.265806304604
Gr7_im_4_3 0 s4 x7_im_a3 0 -793636.674752735
Gr8_re_4_3 0 s4 x8_re_a3 0 -995011.426636335
Gr8_im_4_3 0 s4 x8_im_a3 0 -634727.0708910397
Gd4_4 0 s4 p4 0 0.0017399342255669783
Fd4_4 0 s4 V4 0.08699671127834892
Gr1_4_4 0 s4 x1_a4 0 -10878895373.910818
Gr2_re_4_4 0 s4 x2_re_a4 0 -215285426.36379737
Gr2_im_4_4 0 s4 x2_im_a4 0 132462901.29977886
Gr3_re_4_4 0 s4 x3_re_a4 0 20066493.700415384
Gr3_im_4_4 0 s4 x3_im_a4 0 6149309.585379095
Gr4_re_4_4 0 s4 x4_re_a4 0 -8938690.036470367
Gr4_im_4_4 0 s4 x4_im_a4 0 6425354.150756347
Gr5_re_4_4 0 s4 x5_re_a4 0 -10168488.752300614
Gr5_im_4_4 0 s4 x5_im_a4 0 -10876752.604937019
Gr6_re_4_4 0 s4 x6_re_a4 0 438096.922907171
Gr6_im_4_4 0 s4 x6_im_a4 0 453585.4461877638
Gr7_re_4_4 0 s4 x7_re_a4 0 58116.419050624696
Gr7_im_4_4 0 s4 x7_im_a4 0 -455848.79203888756
Gr8_re_4_4 0 s4 x8_re_a4 0 569504.1111796298
Gr8_im_4_4 0 s4 x8_im_a4 0 -246982.2687504825
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 2.3808038946536517e-12
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 5.030415672712071e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 265376541317.30878
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -265376541317.30878
Rp2_im_im_a4 0 x2_im_a4 5.030415672712071e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 4.2029137059206497e-10
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 181230064852.07162
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -181230064852.07162
Rp3_im_im_a4 0 x3_im_a4 4.2029137059206497e-10
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 8.740715926212408e-10
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 138960205840.4424
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -138960205840.4424
Rp4_im_im_a4 0 x4_im_a4 8.740715926212408e-10
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 8.056222240093577e-10
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 84077751270.35327
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -84077751270.35327
Rp5_im_im_a4 0 x5_im_a4 8.056222240093577e-10
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.1414213562373095
Fx6_re_a4 0 x6_re_a4 V4 7.0710678118654755
Rp6_re_re_a4 0 x6_re_a4 2.315606031223313e-08
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 1389123142.7996109
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -1389123142.7996109
Rp6_im_im_a4 0 x6_im_a4 2.315606031223313e-08
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.1414213562373095
Fx7_re_a4 0 x7_re_a4 V4 7.0710678118654755
Rp7_re_re_a4 0 x7_re_a4 1.8811882441408104e-08
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 585015595.3452263
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -585015595.3452263
Rp7_im_im_a4 0 x7_im_a4 1.8811882441408104e-08
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.1414213562373095
Fx8_re_a4 0 x8_re_a4 V4 7.0710678118654755
Rp8_re_re_a4 0 x8_re_a4 1.8417822478933405e-08
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 193328776.1435361
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -193328776.1435361
Rp8_im_im_a4 0 x8_im_a4 1.8417822478933405e-08
.ENDS s_equivalent
